US09085555B2
6-Ethoxycarbonylmethyl-indole-1-carboxylic acid methyl ester
A mixture of 6-bromo-indole-1-carboxylic acid methyl ester (1.12 g, 4.43 mmol), ethyl acetoacetate (1.23 mL, 9.74 mmol), palladium acetate (20 mg, 0.089 mmol), 2-di-tert-butylphosphino-2′-methylbiphenyl (55 mg, 0.177 mmol) and K3PO4 (2.58 g, 12.2 mmol) in toluene (6 mL) was heated at 100° C. under nitrogen overnight. The reaction was poured into water and extracted twice with EtOAc. The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude material was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 93:7) to give the desired material. TLC, Rf (c-hexane/EtOAc 4:1)=0.3; MS (UPLC): 262.2 [M+H]+, 279.2 [M+NH4]+, 284.2 [M+Na]+, 523.3 [M+Na]+, 545.3 [2M+Na]+; tR (HPLC conditions f): 2.11 min.

reactant | 6-bromo-indole-1-carboxylic acid methyl ester | 4.43 mmol, 1.12 g | COC(=O)N1C=CC2=CC=C(C=C12)Br | C10H8BrNO2
reactant | ethyl acetoacetate | 9.74 mmol, 1.23 mL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 2-di-tert-butylphosphino-2′-methylbiphenyl | 0.177 mmol, 55 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=CC=C1)C)C(C)(C)C | C21H29P
reactant | K3PO4 | 12.2 mmol, 2.58 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.089 mmol, 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 6-Ethoxycarbonylmethyl-indole-1-carboxylic acid methyl ester | COC(=O)N1C=CC2=CC=C(C=C12)CC(=O)OCC | C14H15NO4
